US06919361B2
N-{3-[3-(Dimethylamino)propyl]-5-phenylthiazol-2(3H)-ylidene}aniline
Using N-[3-(dimethylamino)propyl]-N′-phenylthiourea (650 mg) obtained in Reference Example 3 as described below, 2-bromo-2-phenylacetoaldehyde (600 mg) and N,N-dimethylformamide (11 ml), the title compound (497 mg) was obtained in a similar manner to in Example 1.

reactant | N-[3-(dimethylamino)propyl]-N′-phenylthiourea | 650 mg | CN(CCCNC(=S)NC1=CC=CC=C1)C | C12H19N3S
reactant | 2-bromo-2-phenylacetoaldehyde | 600 mg | BrC(C=O)C1=CC=CC=C1 | C8H7BrO
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | N-{3-[3-(Dimethylamino)propyl]-5-phenylthiazol-2(3H)-ylidene}aniline | 497 mg | CN(CCCN1C(SC(=C1)C1=CC=CC=C1)=NC1=CC=CC=C1)C | C20H23N3S
